US09376422B2
Step 1: synthesis of methyl 5-hydroxy-2-methyl-3-nitrobenzoate
To a stirred solution of 5-hydroxy-2-methyl-3-nitrobenzoic acid (3.50 g, 17.8 mmol) in methanol (40 mL) was added thionyl chloride (3.9 mL, 53 mmol) at 0° C. The reaction mixture was heated at reflux for 3 h. On completion, the solvent was removed under reduced pressure. Aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate. The combined organic layers were washed with water, dried and concentrated under reduced pressure. The crude material was purified by column chromatography to afford the title compound (3.0 g, 80%).

reactant | 5-hydroxy-2-methyl-3-nitrobenzoic acid | 17.8 mmol, 3.50 g | OC=1C=C(C(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H7NO5
reactant | thionyl chloride | 53 mmol, 3.9 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 40 mL | CO | CH4O
product | methyl 5-hydroxy-2-methyl-3-nitrobenzoate | 3.0 g, 80% | OC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C9H9NO5
